US07842685B2
A mixture of 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (750 mg, 3.10 mmol), 1H-indole-5-carboxylic acid (499 mg, 3.10 mmol), 1H-benzo[d][1,2,3]triazol-1-ol hydrate (474 mg, 3.10 mmol), and N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (593 mg, 3.10 mmol) in DMF (3.1 mL) was stirred at ambient temperature for 16 h. The reaction mixture was diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 2 times with 50 mL of water, separated, dried over sodium sulfate, and concentrated via rotovap to give N-(2-mercapto-6-(1-phenylcyclopropyl)pyridin-3-yl)-1H-indole-5-carboxamide. MS (ESI) m/z: Calculated: 385.1; Observed: 386.4 (M++H).

reactant | 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 3.10 mmol, 750 mg | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | 1H-indole-5-carboxylic acid | 3.10 mmol, 499 mg | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 3.10 mmol, 474 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 3.10 mmol, 593 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 3.1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-(2-mercapto-6-(1-phenylcyclopropyl)pyridin-3-yl)-1H-indole-5-carboxamide | SC1=NC(=CC=C1NC(=O)C=1C=C2C=CNC2=CC1)C1(CC1)C1=CC=CC=C1 | C23H19N3OS
